US05360814
DL-4,6-Dichlorotryptophan
Mix 4,6-dichloroindole (5.90g, 31.72mmol), potassium carbonate (1.81g, 47.6mmol) and anhydrous methylene chloride (200mL). Stir and add a solution of ethyl 3-bromo-2-hydroxyiminopropanoate (7.00g, 33.31mmol) in methylene chloride (75mL). Stir under a nitrogen atmosphere for 48 hours. Take the solution up in methylene chloride (100mL) and wash with water (300mL), saturated sodium hydrogen carbonate (200mL) and brine (100mL). Dry (MgSO4) and evaporate the solvent in vacuo to give a tan solid. Purify by silica gel chromatography (1 to 3% acetone in chloroform) to give the title compound as a yellow solid (7.00g, 99% based on consumed starting material ). Recrystallize (diethyl ether/hexane) to give the tit le compound as white crystals (4.0g, 56%); mp 175°-176° C.

reactant | 4,6-dichloroindole | 31.72mmol, 5.90g | ClC1=C2C=CNC2=CC(=C1)Cl | C8H5Cl2N
reactant | potassium carbonate | 47.6mmol, 1.81g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-bromo-2-hydroxyiminopropanoate | 33.31mmol, 7.00g | BrCC(C(=O)OCC)=NO | C5H8BrNO3
solvent | methylene chloride | 75mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200mL | C(Cl)Cl | CH2Cl2
product | 4,6-Dichlorotryptophan | 7.00g, 99% | ClC=1C=C(C=C2NC=C(C[C@H](N)C(=O)O)C12)Cl | C11H10Cl2N2O2
